US07259175B2
{2-Methyl-4-[4-phenethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid
To a solution of {2-methyl-4-[4-phenethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid ethyl ester (210 mg, 0.37 mmol) in THF (3 mL is added LiOH (1.0 M, 2 mL). After stirred at room temperature for 2 hrs, it is acidified with 5 N HCl, extracted with ether, dried over sodium sulfate. Concentration gave the title compound (200 mg). MS (ES): 544.2 (M++1); the structure is also confirmed by 1H NMR.

reactant | {2-methyl-4-[4-phenethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.37 mmol, 210 mg | C(C)OC(COC1=C(C=C(C=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCC1=CC=CC=C1)C)=O | C30H28F3NO3S2
reactant | LiOH | 1.0 M, 2 mL | [Li+].[OH-]
reactant | HCl | 5 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | {2-Methyl-4-[4-phenethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid | 200 mg | CC1=C(OCC(=O)O)C=CC(=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCC1=CC=CC=C1 | C28H24F3NO3S2
